US05286721
A mixture of 4-bromobutyronitrile (5.6 g) and 1-methylimidazole (3.0 ml) in benzene (20 ml) was heated to 60° C. for 6 hours. The resulting syrup was separated by decantation, washed with ether and dried to give 4-(3-methyl-1-imidazolio)butyronitrile bromide (7.43 g).

reactant | 4-bromobutyronitrile | 5.6 g | BrCCCC#N | C4H6BrN
reactant | 1-methylimidazole | 3.0 ml | CN1C=NC=C1 | C4H6N2
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | 4-(3-methyl-1-imidazolio)butyronitrile bromide | 7.43 g | [Br-].CN1C=[N+](C=C1)CCCC#N | InChI=1S/C8H12N3.BrH/c1-10-6-7-11(8-10)5-3-2-4-9;/h6-8H,2-3,5H2,1H3;1H/q+1;/p-1
